US03978226
A solution of 9-methylaminoxanthen (5 g.) in dry benzene (10 ml.) was added slowly to a stirred solution of silicon tetraisocyanate (1.16 g.) in benzene (10 ml.). The resulting solution was refluxed for 45 minutes and then evaporated to dryness in vacuo. The residue was refluxed for 30 minutes with 90% isopropanol (20ml.), filtered and the filtrate evaporated to dryness. The residue was washed with cold acetone and recrystallised from ethanol to give N-methyl-N-9-xanthenylurea, m.p. 199°-202°C.

reactant | 9-methylaminoxanthen | 5 g | CNC1C2=CC=CC=C2OC=2C=CC=CC12 | C14H13NO
reactant | silicon tetraisocyanate | 1.16 g | [Si](N=C=O)(N=C=O)(N=C=O)N=C=O | C4N4O4Si
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-methyl-N-9-xanthenylurea | CN(C(=O)N)C1C2=CC=CC=C2OC=2C=CC=CC12 | C15H14N2O2
